US05556864
65(a) (4R)-4-Benzyloxy-1-t-butoxycarbonyl-2-[2-(2-phenylethyl) phenoxymethyl]pyrrolidine
Following a procedure similar to that described in Example 40(a), 200 mg of 2-(2-phenylethyl)phenol (prepared as described in Preparation 19), 124 mg of potassium t-butoxide and 500 mg of (4R)-4-benzyloxy-1-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)pyrrolidine were reacted in 10 ml of dimethylacetamide. The mixture was then worked up as described in Example 40(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 400 mg (yield 81%) of the title compound as a colorless oil.

reactant | 2-(2-phenylethyl)phenol | 200 mg | C1(=CC=CC=C1)CCC1=C(C=CC=C1)O | C14H14O
reactant | potassium t-butoxide | 124 mg | CC(C)([O-])C.[K+]
reactant | (4R)-4-benzyloxy-1-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)pyrrolidine | 500 mg | C(C1=CC=CC=C1)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C | C24H31NO6S
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | (4R)-4-Benzyloxy-1-t-butoxycarbonyl-2-[2-(2-phenylethyl) phenoxymethyl]pyrrolidine | 400 mg, yield 81% | C(C1=CC=CC=C1)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)COC1=C(C=CC=C1)CCC1=CC=CC=C1 | C31H37NO4
